US05654307
4-Benzylaminopyrido[3,2-d]pyrimidine
A solution of freshly prepared 4-chloropyrido[3,2-d]pyrimidine (0.10 g, 0.60 mmol) (prepared as described in the previous experimental) and benzylamine (0.13 mL, 1.20 mmol) in propan-2-ol (15 mL) containing a trace of conc. HCl is warmed at 50° C. for 30 min, and then concentrated to dryness. The residue is partitioned between water and EtOAc, and the organic layer worked up and chromatographed on silica gel. EtOAc elutes foreruns, while MeOE/EtOAc (1:9) elutes 4-(benzylamino) pyrido [3,2-d]pyrimidine (0.11 g, 77%). 1H NMR (CDCl3) δ 8.67 (1H, s), 6.50 (1H, dd, J=4.3, 1.5 Hz), 8.10 (1H, dd, J=8.5, 1.5 Hz), 7.63 (1H, dd, J=8.8, 4.3 Hz), 7.55 (1H, brs), 7.41-7.29 (5H, m), 4.86 (2H, d, J=5.9 Hz).

reactant | 4-chloropyrido[3,2-d]pyrimidine | 0.60 mmol, 0.10 g | ClC=1C2=C(N=CN1)C=CC=N2 | C7H4ClN3
reactant | benzylamine | 1.20 mmol, 0.13 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | HCl | Cl | ClH
solvent | propan-2-ol | 15 mL | CC(C)O | C3H8O
product | 4-Benzylaminopyrido[3,2-d]pyrimidine | C(C1=CC=CC=C1)NC=1C2=C(N=CN1)C=CC=N2 | C14H12N4
